US04279639
Synthesis of N-(2-fluoro-4-pyridyl)-N'-phenylurea
112 mg (1 mmol) of 2-fluoro-4-aminopyridine was added to 9 ml of dry benzene and to the resulting solution was further added 119 mg (1 mmol) of phenyl isocyanate. After stirring at room temperature for 30 hrs., the crystals which deposited were collected by filtration and then subjected to chromatography in a conventional manner using alumina. After developing the column with a benzene-ethyl acetate (3:1 by volume) solvent mixture, eluate containing the objective compound was collected. After distilling solvent off under reduced pressure, the residue was recrystallized from an ethyl acetate-n-hexane solvent mixture to give 113 mg of the objective compound: yield 48.9%; m.p. 179°-180° C.

reactant | 2-fluoro-4-aminopyridine | 1 mmol, 112 mg | FC1=NC=CC(=C1)N | C5H5FN2
reactant | phenyl isocyanate | 1 mmol, 119 mg | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | benzene | 9 ml | C1=CC=CC=C1 | C6H6
product | N-(2-fluoro-4-pyridyl)-N'-phenylurea | 113 mg, yield 48.9% | FC1=NC=CC(=C1)NC(=O)NC1=CC=CC=C1 | C12H10FN3O
